US08802673B2
To a stirred solution of (RS)-2-(4-bromo-2-fluorophenyl)oxirane (12.3 g) in THF (40 ml) was added 2-aminoethanol (33.9 ml) and the mixture was stirred at room temperature overnight. The reaction mixture was then poured into EtOAc/THF (3:1) and washed with saturated brine. The organic layer was separated, dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel; gradient: 0% to 35% MeOH in dichloromethane containing a few drops of aq. NH3) to afford (RS)-1-(4-bromo-2-fluorophenyl)-2-(2-hydroxyethylamino)ethanol (12.0 g, 76%) as a brown oil. MS (ISP): 280.0 ([{81Br}M+H]−), 278.0 ([{79Br}M+H]+).

reactant | (RS)-2-(4-bromo-2-fluorophenyl)oxirane | 12.3 g | BrC1=CC(=C(C=C1)C1OC1)F | C8H6BrFO
reactant | 2-aminoethanol | 33.9 ml | NCCO | C2H7NO
reactant | EtOAc THF | CCOC(=O)C.C1CCOC1
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (RS)-1-(4-bromo-2-fluorophenyl)-2-(2-hydroxyethylamino)ethanol | 12.0 g, 76% | BrC1=CC(=C(C=C1)C(CNCCO)O)F | C10H13BrFNO2
